US07105544B2
N-[5-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-2-FLUOROPHENYL]BUTANAMIDE
Example 65 was prepared from diphenylacetyl chloride and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CDCl3) δ 8.33–8.18 (m, 1H), 7.49–7.10 (m, 12H), 7.10–6.93 (m, 1H), 6.90–6.76 (br, 1H), 4.87 (s, 1H), 3.44–3.28 (m, 2H), 3.06–2.89 (m, 2H), 2.56–2.40 (m, 3H), 2.40–2.31 (m, 2H), 2.13–1.93 m, 2H), 1.86–1.52 (m, 8H), 1.01 (t, 3H, J=7.6 Hz) ESMS m/e: 516.6 (M+H)+; Anal. Calc. For (HCl salt) C32H39ClFN3O2.0.25CHCl3.1.00H2O: C, 64.49; H, 6.93; N, 6.99. Found: C, 64.23; H, 7.21; N, 6.99.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide | NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F | C18H28FN3O
product | N-[5-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-2-FLUOROPHENYL]BUTANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F)C1=CC=CC=C1 | C32H38FN3O2
